US08809369B2
To a suspension of 60% sodium hydride (535.0 mg, 13.7 mmol) in N,N-dimethylformamide (2.5 mL) was added methanesulfonamide (1.3 g, 13.8 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A10. A solution of 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (300.0 mg, 0.82 mmol) and 1,1′-carbonyldiimidazole (442.0 mg, 2.76 mmol) in N,N-dimethylformamide (2.0 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B10. Solution B10 was added to Solution A10 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded N-[4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carbonyl]-methanesulfonamide (109.0 mg, 30%) as a white solid: MS (ESI) M+1=444.2.

reactant | sodium hydride | 13.7 mmol, 535.0 mg | [H-].[Na+]
reactant | methanesulfonamide | 13.8 mmol, 1.3 g | CS(=O)(=O)N | CH5NO2S
reactant | 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 0.82 mmol, 300.0 mg | CC1(CC(NC2=C(C=CC=C12)C(=O)O)C1=CC(=CC=C1)N1CCOCC1)C | C22H26N2O3
reactant | 1,1′-carbonyldiimidazole | 2.76 mmol, 442.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | N-[4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carbonyl]-methanesulfonamide | 109.0 mg, 30% | CC1(CC(NC2=C(C=CC=C12)C(=O)NS(=O)(=O)C)C1=CC(=CC=C1)N1CCOCC1)C | C23H29N3O4S
